US04684398
To a stirred solution of 17.8 g of 7-methoxy-1,2,3,4-tetrahydro-1-naphthylamine hydrochloride in 150 ml of ethanol at 0° C. was added 15.5 g of dimethyl cyanodithioiminocarbonate over a period of 30 minutes. The mixture was then allowed to remain at room temperature for 2 days after which the reaction mixture was cooled and the resulting crystals were collected by filtration. Concentration of the mother liquor gave a second crop of crystals. The combined product was recrystallized from ethanol to give 19.9 g of N'-cyano-N-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea as colorless plates, mp 131°-132° C.

reactant | 7-methoxy-1,2,3,4-tetrahydro-1-naphthylamine hydrochloride | 17.8 g | Cl.COC1=CC=C2CCCC(C2=C1)N
reactant | dimethyl cyanodithioiminocarbonate | 15.5 g | CSC(=NC#N)SC | C4H6N2S2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N'-cyano-N-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea | 19.9 g | C(#N)N=C(NC1CCCC2=CC=C(C=C12)OC)SC | C14H17N3OS
